US08003649B2
Reductive amination of 6-(piperazin-1-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine with 1H-pyrrole-3-carbaldehyde was carried out according to General Synthetic Method 7. The crude product was purified by hplc using a Waters XBridge Prep C18 OBD column, 5μ silica, 21 mm diameter, 100 mm length eluted with decreasingly polar mixtures of water (containing 0.05% aqueous ammonia) and acetonitrile as eluents to give 6-[4-(1H-pyrrol-3-ylmethyl)piperazin-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine.

reactant | 6-(piperazin-1-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | N1(CCNCC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C10H11F3N6
reactant | 1H-pyrrole-3-carbaldehyde | N1C=C(C=C1)C=O | C5H5NO
product | 6-[4-(1H-pyrrol-3-ylmethyl)piperazin-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | N1C=C(C=C1)CN1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C15H16F3N7
